US05319100
N-carbamoyl-5-(3,5-di-tert-butyl-4-hydroxy-benzylidene)thiazolidin-4-one (Ib-1)
5-(3,5-Di-tert-butyl-4-hydroxybenzylidene)thiazolidin-4-one (479 mg, 1.5 mmole) described in Kokai 62-42977 was suspended in dried toluene (3 ml), to which chlorosulfonyl isocyanate (144 μl;1.65 mmole) was added with stirring under nitrogen atmosphere, to obtain a transparent solution of orange color. Furthermore, the solution was heated at 90° C. for 10 min., from which toluene was evaporated under reduced pressure, then 3.6 ml of mixed solution of acetic acid and water (2:1) was added thereto. The resulting mixture was heated at 90° C. for 10 min. and poured into ice-water, which was subjected to extraction with dichloromethane. The obtained organic layer was washed with water and saturated brine, dried over magnesium sulfate, and evaporated. The obtained residue was separated by using silica gel chromatography (chloroform:acetone=20:1), whereby 377 mg of the objective compound was obtained, which was recrystallized from ethanol-ether in 53% yield. The physical constants are described on Table 1.

reactant | 5-(3,5-Di-tert-butyl-4-hydroxybenzylidene)thiazolidin-4-one | 1.5 mmole, 479 mg | C(C)(C)(C)C=1C=C(C=C2C(NCS2)=O)C=C(C1O)C(C)(C)C | C18H25NO2S
reactant | chlorosulfonyl isocyanate | 1.65 mmole, 144 μl | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-carbamoyl-5-(3,5-di-tert-butyl-4-hydroxy-benzylidene)thiazolidin-4-one | 377 mg, 53% yield | C(N)(=O)N1CSC(C1=O)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C19H26N2O3S
